US05616586
9-Bromo-5-benzylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (150 mg, 0.44 mmol) and benzylamine (54 μL, 0.5 mmol) to give 170 mg of the title compound (89%): mp 220°~223° C.; 1H NMR (270 MHz, DMSO-d6) δ12.04 (bs, 1H), 8.46~8.55 (m, 1H), 7.19~7.37 (m, 6H), 7.14 (d, 1H, J=2 Hz), 5.09~5.19 (m, 1H), 4.21~4.35 (m, 2H), 3.04 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.77 (dm, 1H, J=17.1 Hz), 2.41~2.54 (m, 2H), 2.00 (dm, 1H, J=13.5 Hz), 1.72~1.90 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.44 mmol, 150 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | benzylamine | 0.5 mmol, 54 μL | C(C1=CC=CC=C1)N | C7H9N
product | 9-Bromo-5-benzylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 170 mg, 89% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NCC2=CC=CC=C2)=O | C20H18BrN3O3
